US07498339B2
Step 2: (RS)-{Allyloxycarbonyl-[(4-chloro-phenyl)-phenyl-methyl]-amino}-acetic acid ethyl ester
(RS)-{[(4-Chloro-phenyl)-phenyl-methyl]-amino}-acetic acid ethyl ester (18 g, 59 mmol) was dissolved under nitrogen in DCM (1500 mL), N-ethyldiisopropylamine (12.2 mL, 71 mmol) was added, cooled in ice and treated with a solution of allyl chloroformate (6.4 mL, 71 mmol) in DCM (50 mL). Stirring at 20° C. was continued for 16 h. The solution was extracted with 1 M citric acid (200 mL) and 50% NaCl solution. The crude product was purified by chromatography on silica gel in heptane with a gradient of ethyl acetate from 0-50% in 60 min. One obtained 18.1 g (78%) of colorless oil. MS: m/z=388 [M+H]+.

reactant | (RS)-{[(4-Chloro-phenyl)-phenyl-methyl]-amino}-acetic acid ethyl ester | 59 mmol, 18 g | C(C)OC(CNC(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O | C17H18ClNO2
reactant | N-ethyldiisopropylamine | 71 mmol, 12.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl chloroformate | 71 mmol, 6.4 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | DCM | 1500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (RS)-{Allyloxycarbonyl-[(4-chloro-phenyl)-phenyl-methyl]-amino}-acetic acid ethyl ester | 18.1 g, 78% | C(C)OC(CN(C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C(=O)OCC=C)=O | C21H22ClNO4
